US05730996
Mixture of a 2% chlorpyrifos/water dispersion with a 2% sodium montmorillonite clay/water suspension in a ratio sufficient to provide a chlorpyrifos concentration of at least about 8% based on the dry weight of the clay.

reactant | chlorpyrifos water | CCOP(=S)(OCC)OC1=C(C=C(C(=N1)Cl)Cl)Cl.O
solvent | water | O | H2O
product | chlorpyrifos | CCOP(=S)(OCC)OC1=C(C=C(C(=N1)Cl)Cl)Cl | C9H11Cl3NO3PS
